US05723497
A 5-liter flask equipped with a stirrer, dropping funnel and reflux tube was charged with 28.5 g (0.75 mol) of LiAlH4 and 2 liters of tetrahydrofuran, to which a solution of 237.0 g (0.75 mol) of methyl 12-hydroxyoctadecanate in 1 liter of tetrahydrofuran was added dropwise over 5 hours with stirring. After completion of the dropping, the stirring was continued further for 1 hour at 65° C. After the reaction mixture was then cooled, 90 ml of a 5% aqueous solution of KOH were added with stirring. A salt precipitated was separated by filtration, and the resultant solution was concentrated under reduced pressure. The resulting residue was purified by column chromatography on silica gel, thereby obtaining 185.7 g (yield: 86.6%) of 1,12-octadecanediol.

reactant | LiAlH4 | 0.75 mol, 28.5 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | methyl 12-hydroxyoctadecanate | 0.75 mol, 237.0 g | OC(CCCCCCCCCCC(=O)OC)CCCCCC | C19H38O3
reactant | KOH | [OH-].[K+]
solvent | tetrahydrofuran | 1 liter | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 liters | O1CCCC1 | C4H8O
product | 1,12-octadecanediol | 185.7 g, yield: 86.6% | C(CCCCCCCCCCC(CCCCCC)O)O | C18H38O2
